US07884104B2
Step A: N-(6-Chloropyridazin-3-yl)-2,2,2-trifluoroacetamide
To a solution of 2 g (15 mmol) of 6-chloropyridazin-3-amine and 2.4 mL (17 mmol) of triethylamine in 150 mL dichloromethane at 0° C. was carefully added 2.1 mL (15 mmol) trifluoroacetic acid anhydride. The resulting solution was allowed to warm to ambient temperature then concentrated in vacuo and dissolved in 200 mL of a 3:1 solution of chloroform/isopropanol. The resulting solution was washed sequentially with saturated aqueous sodium bicarbonate solution and saturated aqueous brine (200 mL each). The organic phase was then dried over magnesium sulfate, filtered, and evaporated in vacuo to yield a crude oil which was carried forward without purification.

reactant | 6-chloropyridazin-3-amine | 15 mmol, 2 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | triethylamine | 17 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 15 mmol, 2.1 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-(6-Chloropyridazin-3-yl)-2,2,2-trifluoroacetamide | ClC1=CC=C(N=N1)NC(C(F)(F)F)=O | C6H3ClF3N3O
